US09169271B2
N-(4-Fluoro-3-((3aS,6aS)-1-((R)-1-phenylpropyl)hexahydrofuro[3,4-c]isoxazol-6a-yl)phenyl)acetamide
A mixture of (3aS,6aS)-6a-(5-bromo-2-fluorophenyl)-1-((R)-1-phenylpropyl)hexahydrofuro[3,4-c]isoxazole (1.0 equiv., volumes are in mL/g of this compound), acetamide (4 equiv.), copper (I) iodide (0.2 equiv.), potassium iodide (0.7 equiv.), K3PO4 (2.0 equiv.), N,N-dimethylethylenediamine (0.8 equiv.) and DMF (4 mL/g) is heated at 110° C. for about 4 hours. After cooling to 30° C., the mixture is partitioned between isopropyl acetate (3.7 mL/g) and 10 weight % NH4Cl (5.7 mL/g) in water. The layers are separated and the aqueous layer is extracted with isopropyl acetate (2 mL/g). The combined organic layers are washed twice with 10 weight % NH4Cl (1 mL/g) in water. The organic layer is mixed with xylenes (4.3 mL/g), and the mixture is distilled under vacuum to remove most of the isopropyl acetate and residual DMF. The mixture is cooled to 0° C., the solids are collected by filtration, rinsed twice with xylenes (0.7 mL/g) and dried to give the title compound. LC-MS (m/z): 385 (M+H).

reactant | (3aS,6aS)-6a-(5-bromo-2-fluorophenyl)-1-((R)-1-phenylpropyl)hexahydrofuro[3,4-c]isoxazole | BrC=1C=CC(=C(C1)[C@@]12N(OC[C@@H]1COC2)[C@H](CC)C2=CC=CC=C2)F | C20H21BrFNO2
reactant | acetamide | 4 equiv. | C(C)(=O)N | C2H5NO
reactant | potassium iodide | 0.7 equiv. | [I-].[K+]
reactant | K3PO4 | 2.0 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N-dimethylethylenediamine | 0.8 equiv. | CN(CCN)C | C4H12N2
catalyst | copper (I) iodide | 0.2 equiv. | [Cu]I
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-Fluoro-3-((3aS,6aS)-1-((R)-1-phenylpropyl)hexahydrofuro[3,4-c]isoxazol-6a-yl)phenyl)acetamide | FC1=C(C=C(C=C1)NC(C)=O)[C@@]12N(OC[C@@H]1COC2)[C@H](CC)C2=CC=CC=C2 | C22H25FN2O3
